US07579341B2
1 h) ethyl 1′-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1,4′-bipiperidinyl-4-carboxylate
62.9 mg (0.4 mmol) ethyl piperidine-4-carboxylate and 11 μL (0.2 mmol) AcOH were added to a solution of 127 mg (0.2 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-oxo-2-(4-oxo-piperidin-1-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 2 mL THF/MeOH (2:1) and the reaction mixture was stirred for 2 h at RT. Then it was cooled to 0° C., combined with 10.6 mg (0.16 mmol) NaBH3CN after 2 h and stirred at 0° C. overnight. The solvent was allowed to evaporate, the residue was taken up in 2 mL DMF and the crude product was purified by HPLC. The fractions containing the product were combined and freeze-dried.

reactant | ethyl piperidine-4-carboxylate | 0.4 mmol, 62.9 mg | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | AcOH | 0.2 mmol, 11 μL | CC(=O)O | C2H4O2
reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-oxo-2-(4-oxo-piperidin-1-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.2 mmol, 127 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)=O)=O)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C30H33ClF3N5O5
reactant | NaBH3CN | 0.16 mmol, 10.6 mg | [BH3-]C#N.[Na+]
solvent | THF MeOH | 2 mL | C1CCOC1.CO
product | ethyl 1′-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1,4′-bipiperidinyl-4-carboxylate | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)N1CCC(CC1)N1CCC(CC1)C(=O)OCC)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C38H48ClF3N6O6
